US06525226B2
A German patent, Ger.Offen 2,547,030 (1977), disclosed the preparation of o-benzyl toluenes by the reaction of o-methylbenzyl halides with substituted benzenes in the presence of Al-silicate. The 2-CH3C6H4CH2Cl was stirred with toluene and Al-silicate (25% Al2O3) at 110° C. to give 81% 2-methylbenzyltoluene. According to a Japanese patent, JP 59,186,937 (1984), o-benzylphenol was prepared by the liquid phase reaction of benzyl alcohol with phenol in the presence of γ-Al2O3. For example 7.5 g γ-Al2O3 was added to a mixture of 32.5 g benzyl alcohol and 47 g phenol at 190° C. under stirring to give a product-containing 49.9% o-benzylphenol. A German Patent, Ger. Offen DE 3,700,917 (1988), disclosed the preparation of p-substituted o-benzylphenols by alkylation of p-substituted phenols with benzylalcohol in the presence of Na-Y type zeolite. A mixture of 0.5 mole 4-ClC6H4OH, 0.1 mole C6H5CH2OH and 0.6 g of Na-Y type zeolite was heated at 200° C. for 3 hrs to give 25.4% 2-benzyl-4-chlorophenol.

reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | 4-ClC6H4OH | 0.5 mole | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | C6H5CH2OH | 0.1 mole | C1(=CC=CC=C1)CO | C7H8O
product | 2-benzyl-4-chlorophenol | 25.4% | C(C1=CC=CC=C1)C1=C(C=CC(=C1)Cl)O | C13H11ClO
